US07834039B2
3-(3-chloro-4-isopropoxyphenyl)-5-(1,2,3,4-tetrahydroisoquinolin-5-yl)-1,2,4-oxadiazole (0.1088 g, 0.294 mmol) in DMF (2.94 ml) (briefly heated to 40° C. for complete dissolution). K2CO3 (0.081 g, 0.588 mmol) and tert-butyl 3-bromopropanoate (0.046 ml, 0.276 mmol) was added and the mixture stirred at ambient temperature for 2 hrs. Additional tert-butyl 3-bromopropanoate (0.053 ml, 0.315 mmol) was added and the reaction was stirred at 60° C. over the weekend. Additional tert-butyl 3-bromopropanoate (0.053 ml, 0.315 mmol) was added and the reaction continued heated at 60° C. overnight. Additional K2CO3 (0.041 g, 0.294 mmol) was added, followed by tert-butyl 3-bromopropanoate (0.053 ml, 0.315 mmol). The reaction was heated at 60° C. overnight. The reaction mixture was filtered and the filtrate concentrated in vacuo to give ˜179 mg of crude yellow oil. The crude residue was purified via Analogix system using RediSep RS 12 g column, with a gradient of 0-45% EtOAc/Heptane over 35 min. at 15 mL/min. Fractions 23-28 were combined and concentrated to yield tert-butyl 3-(5-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)-3,4-dihydroisoquinolin-2(1H)-yl)propanoate (91 mg, 0.183 mmol) as light yellow oil. LCMS (Table 1, Method c) Rt=3.39 min, m/z 500.72 (M+H)+.

reactant | 3-(3-chloro-4-isopropoxyphenyl)-5-(1,2,3,4-tetrahydroisoquinolin-5-yl)-1,2,4-oxadiazole | 0.294 mmol, 0.1088 g | ClC=1C=C(C=CC1OC(C)C)C1=NOC(=N1)C1=C2CCNCC2=CC=C1 | C20H20ClN3O2
reactant | K2CO3 | 0.588 mmol, 0.081 g | C(=O)([O-])[O-].[K+].[K+]
reactant | tert-butyl 3-bromopropanoate | 0.276 mmol, 0.046 ml | BrCCC(=O)OC(C)(C)C | C7H13BrO2
reactant | tert-butyl 3-bromopropanoate | 0.315 mmol, 0.053 ml | BrCCC(=O)OC(C)(C)C | C7H13BrO2
reactant | tert-butyl 3-bromopropanoate | 0.315 mmol, 0.053 ml | BrCCC(=O)OC(C)(C)C | C7H13BrO2
reactant | K2CO3 | 0.294 mmol, 0.041 g | C(=O)([O-])[O-].[K+].[K+]
reactant | tert-butyl 3-bromopropanoate | 0.315 mmol, 0.053 ml | BrCCC(=O)OC(C)(C)C | C7H13BrO2
solvent | DMF | 2.94 ml | CN(C)C=O | C3H7NO
product | tert-butyl 3-(5-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)-3,4-dihydroisoquinolin-2(1H)-yl)propanoate | 0.183 mmol, 91 mg | ClC=1C=C(C=CC1OC(C)C)C1=NOC(=N1)C1=C2CCN(CC2=CC=C1)CCC(=O)OC(C)(C)C | C27H32ClN3O4
